US07989523B2
The step (i) and the step (ii) differ from each other in the pressure. The reaction liquid in the step (i) contains an unreacted 4,4′-dihydroxybicyclohexyl compound, a reaction intermediate in which only one of the two hydroxylated-cyclohexane rings of the 4,4′-dihydroxybicyclohexyl compound has undergone intramolecular dehydration into a cyclohexene ring, the target bicyclohexyl-3,3′-diene compound, by-produced water, the dehydration catalyst, and the reaction solvent in coexistence. In the step (i), the by-product water is distilled out (evaporated), but it is not desirable to distill out the reaction intermediate in this step for the following reasons. Specifically, (1) distilling out of the reaction intermediate causes reduction in the yield of the target compound, because the reaction intermediate can be converted into the target compound via further intramolecular dehydration; and (2) the reaction intermediate is generally a sublimable solid, and such a sublimated reaction intermediate may deposit in a pathway for distillation of by-product water in a distillation column, if used, to block or clog the distillation pathway, and this may cause increase in the inner pressure of the reactor, thus causing troubles such as a rupture or damage of the reactor and scattering of the reaction liquid. Accordingly, dehydration in the step (i) is carried out, while distilling off by-product water, at a pressure greater than 20 Torr (2.67 kPa) so as to avoid distillation of the reaction intermediate. The pressure is preferably greater than 20 Torr and equal to or less than normal pressure (atmospheric pressure) (greater than 2.67 kPa and equal to or less than 0.1 MPa), more preferably greater than 100 Torr and equal to or less than normal pressure (greater than 13.3 kPa and equal to or less than 0.1 MPa), and further preferably greater than 200 Torr and equal to or less than normal pressure (greater than 26.7 kPa and equal to or less than 0.1 MPa). From the viewpoint of operational ease, the pressure is typically preferably normal pressure (atmospheric pressure). The temperature (reaction temperature) in the step (i) is from 130° C. to 230° C. (e.g., 130° C. to 200° C.), preferably from 140° C. to 200° C. (e.g., 140° C. to 195° C.), and more preferably from 140° C. to 185° C. Dehydration at an excessively high temperature may cause side reactions such as isomerization, and dehydration at an excessively low temperature may cause an insufficient reaction rate. The reaction period is, for example in the case of preparation on the order of about 3 liters, from about 1 to 10 hours, and preferably from about 2 to 6 hours. In the alicyclic alcohol sequential addition process, the reaction period from the time point upon the completion of the addition of the starting material is, for example, from about 0.5 to 10 hours, and preferably from about 1 to 6 hours.

reactant | 4,4′-dihydroxybicyclohexyl | OC1CCC(CC1)C1CCC(CC1)O | C12H22O2
solvent | water | O | H2O
product | bicyclohexyl-3,3′-diene | C1CC(CC=C1)C2CCC=CC2 | C12H18
